US05254558
2-[5-Amino-2-(4-aminophenyl)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide
2-[5-Benzyloxycarbonylamino-2-(4-nitrophenyl)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide was subjected to a procedure similar to that described in Example 6 to give a brown solid; chromatography solvent: methanol:dichloromethane (gradient, 5:95, 10:90); NMR (DMSO/D2O): 7.29 (s,1), 7.01 (d,2), 6.49 (d,2), 4.52 (m,2), 4.10 (d,2), 2.25 (m,1), 0.88 (d,3), 0.80 (d,3).

reactant | 2-[5-Benzyloxycarbonylamino-2-(4-nitrophenyl)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | C(C1=CC=CC=C1)OC(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C26H24F3N5O7
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[5-Amino-2-(4-aminophenyl)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C1=CC=C(C=C1)N | C18H20F3N5O3
